Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___
 
Major Surgical or Invasive Procedure:
6L Paracentesis ___

attach
 
Pertinent Results:
ADMISSION LABS
================
___ 02:00PM BLOOD WBC-10.8* RBC-2.05* Hgb-8.0* Hct-25.0* 
MCV-122* MCH-39.0* MCHC-32.0 RDW-17.2* RDWSD-78.9* Plt ___
___ 02:00PM BLOOD Neuts-76.5* Lymphs-14.7* Monos-7.7 
Eos-0.5* Baso-0.1 Im ___ AbsNeut-8.24* AbsLymp-1.58 
AbsMono-0.83* AbsEos-0.05 AbsBaso-0.01
___ 02:00PM BLOOD ___
___ 02:00PM BLOOD UreaN-14 Creat-1.0 Na-136 K-4.4 Cl-99 
HCO3-22 AnGap-15
___ 02:00PM BLOOD ALT-13 AST-35 AlkPhos-84 TotBili-3.8* 
DirBili-1.5* IndBili-2.3
___ 02:00PM BLOOD TotProt-7.4 Albumin-2.4* Globuln-5.0* 
Phos-3.2 Mg-2.2 Iron-78
___ 04:05PM BLOOD Lactate-1.6

Other Pertinent Labs/Micro
============================
___ 06:30PM ASCITES TNC-175* RBC-1762* Polys-10* Lymphs-32* 
Monos-36* Eos-1* Mesothe-5* Macroph-16*
___ 06:30PM ASCITES TNC-175* RBC-1762* Polys-10* Lymphs-32* 
Monos-36* Eos-1* Mesothe-5* Macroph-16*
___ 06:30PM ASCITES TotPro-1.8 Glucose-114
___ 6:30 pm PERITONEAL FLUID      PERITONEAL FLUID. 
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 
   FLUID CULTURE (Final ___:    NO GROWTH. 
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

Transplant Work-up Labs
===========================
___ 02:00PM BLOOD Iron-78 calTIBC-69* Ferritn-3333* TRF-53*
___ 03:37PM BLOOD VitB12-1092* Folate-16
___ 05:00PM BLOOD Cholest-67 Triglyc-68 HDL-16* CHOL/HD-4.2 
LDLcalc-37
___ 02:00PM BLOOD TSH-1.2 Free T4-1.2
___ 05:00PM BLOOD 25VitD-14*
___ 07:25AM BLOOD GGT-26
___ 05:00PM BLOOD HAV Ab-NEG
___ 02:00PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 02:00PM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 05:00PM BLOOD CEA-1.0 PSA-0.10
___ 02:00PM BLOOD ___ AFP-2.4
___ 02:00PM BLOOD IgG-2340* IgM-117
___ 05:00PM BLOOD CMV IgG-NEG CMV IgM-NEG CMVI-There is n 
EBV IgG-POS* EBNA-POS* EBV IgM-NEG EBVI-Results in MEASIgG-POS* 
MUM IgG-POS* RUB IgG-POS* TOX IgG-NEG TOXI-If acute i VZV 
IgG-POS* Trep Ab-NEG
___ 02:00PM BLOOD HIV Ab-NEG
___ 02:00PM BLOOD Ethanol-NEG
___ 02:00PM BLOOD tTG-IgA-21*
___ 02:00PM BLOOD HCV Ab-NEG
___ 02:00PM BLOOD ALPHA-1-ANTITRYPSIN- 224  H  (reference 
83-199)      
___ 07:25AM BLOOD Phosphatidylethanol ___ 
___ 05:00PM BLOOD ANTI-LIVER-KIDNEY-MICROSOME ANTIBODY-PND
___ 05:00PM BLOOD HERPES SIMPLEX VIRUS 1 AND 2 ANTIBODY 
IGM-PND
___ 07:25AM BLOOD QUANTIFERON-TB GOLD-PND
___ 10:04PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:04PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 10:04PM URINE RBC-2 WBC-3 Bacteri-NONE Yeast-NONE Epi-0
___ 10:04PM URINE CastHy-124*
___ 10:04PM URINE Mucous-OCC*
___ 10:04 pm URINE      Source: ___. 
      SPECIMEN NOT PROCESSED DUE TO: Urinalysis had insufficient 
pyuria
      (<=10 WBCs/hpf).  Please see ___ “UA w/reflex Culture 
protocol”
      for more information.  If there is a reason why this 
patient’s urine
      culture should be run despite the urinalysis findings, and 
it is
      within 72 hours from when the specimen was received by the 
lab, order
      an “Add-on” urine culture. You will be required to 
document the
      reason for overriding the reflex protocol. 
                              **NOT PROCESSED**
___ 10:04PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

IMAGING/STUDIES
=================
CXR (___)
Small left pleural effusion with probable compressive left lower 
lobe
atelectasis.

RUQUS (___)
1. Limited Doppler assessment.  Within this limitation, reversal 
of flow within the portal vein with no evidence of portal vein 
thrombosis.
2. Cirrhotic liver morphology with moderate to large volume 
ascites.
3. Left pleural effusion

EKG (___)
Sinus rhythm 
Left atrial enlargement 
Nonspecific T abnormalities, lateral leads 
Prolonged QT interval (QTc 512)
No previous ECGs available

TTE (___)
NON-DIAGNOSTIC STUDY- CANNOT ASSESS VALVULAR STRUCTURE/FUNCTION 
OR RIGHT VENTRICULAR MORPHOLGY DUE TO POOR ACOUSTIC WINDOWS. 
Overall left ventricular systolic function is normal (greater 
than 55%).
Ascites is seen.
RECOMMEND: If clinically indicated, a cardiac MRI or TEE is 
suggested for further evaluation of cardiac structure and 
function.

MRI Liver W&W/O Contrast (___)
No focal suspicious liver lesions identified. 
IMPRESSION: 
-The liver has a cirrhotic morphology and there is evidence of 
portal hypertension with moderate volume ascites and 
recanalization of the umbilical vein. 
-Rapid signal loss from the liver is suggestive of iron 
deposition. 
-Moderate-sized left pleural effusion. 

DISCHARGE LABS
===============
___ 04:30AM BLOOD WBC-8.2 RBC-2.27* Hgb-8.3* Hct-24.9* 
MCV-110* MCH-36.6* MCHC-33.3 RDW-22.0* RDWSD-87.6* Plt ___
___ 04:30AM BLOOD ___ PTT-37.8* ___
___ 04:30AM BLOOD Glucose-106* UreaN-17 Creat-1.0 Na-139 
K-4.1 Cl-101 HCO3-28 AnGap-10
___ 04:30AM BLOOD ALT-31 AST-98* AlkPhos-147* TotBili-3.9*
 
Brief Hospital Course:
SUMMARY
=============
___ man with no PMH admitted from clinic with ascites, 
c/f new decompensated cirrhosis and was initiated on transplant 
work-up. There were concerns for possible Wernicke's 
encephalopathy given possible confabulation, mild nystagmus and 
malnutrition, treated with IV thiamine. Otherwise, had anemia 
requiring transfusion without evidence of overt bleed.

TRANSITIONAL ISSUES:
====================
[] unable to perform HFE genotype test as inpatient; please 
order outpatient given suspicion on MRI liver
[] If he is appropriate outpatient transplant candidate: will 
need dental, PFTs, cardiac MRI (not able to see windows on TTE) 
ABG to round out workup
[] Phosphatidylethanol (___) sent ___, follow-up as outpatient
[] Reports of potential unsafe home situation - if being 
considered for transplant, patient will likely have to move in 
with sister or sister/other family member will have to move in 
with him
[] Will need to meet with ___ as an outpatient; ideally 
would meet with ___ with his sister present.
[] Nadolol discontinued given only grade 1 varices on last EGD - 
this is not an indication for beta-blocker ppx.
[] Urology follow up if persistent urtethral bleeding as 
outpatient for cystourethroscopy
[] ___ipro for tx of presumed UTI recommended by 
urology
[] BPs were borderline low this admission (90s/50s) so patient 
was started on midodrine 5mg TID, titrate as needed outpatient.
[] Was not ___ immune on admission so received ___ vaccine ___ 
dose prior to discharge.
[] Will need to follow up with hepatology after 
multidisciplinary appointment (pending at ___).
[] Patient unable to get PFTs with ABG while impatient as part 
of his transplant workup. Please schedule PFTs as outpatient

Discharge MELD: 20
Discharge Cr: 1.0
Discharge Hgb: 8.3
Discharge Na: 139
Discharge Weight: 170 lbs (not dry)

ACUTE ISSUES:
=============
# Cirrhosis of unclear etiology d/b ascites, grade 1 esophageal 
varix
MELD 24 on admission--> 20 on dc. Patient presented to clinic 
with nausea, vomiting, shortness of breath, and ascites 
concerning for decompensated cirrhosis. AST/ALT wnl, however 
Tbili slightly elevated. RUQUS with Doppler negative for 
thrombus. Diagnostic paracentesis in ED ___ without evidence of 
SBP. Started liver transplant work-up while inpatient, however 
patient has psychosocial barriers (see discharge summary, but 
mostly home social support) and will complete workup as 
outpatient. Had LVP with 6L removed ___. Was started on 
diuretic titrated to PO 120mg Lasix, Spironolactone 300mg. No 
evidence of overt GIB. Last EGD done ___ at ___ 
showed Grade 1 Varices in distal esophagus. Nadolol was given no 
need for ppx. INR was elevated, had PO vitamin K challenge with 
mild improvement in INR. Continued on home MVI, folic acid, and 
thiamine as well as 2g Na diet. ___ clinic was contacted at 
discharge and will reach out to pt with appointment. Following 
___ appointment he will eventually need to follow up with Dr 
___.

# Transplant Work-up
MELD ranged ___. Serologies were sent with several pending at 
time of discharge. MR ___ was notable for signal loss 
suggestive of iron deposition. Echo was non-diagnostic, 
therefore Cardiac MR ___ likely need to be done as outpatient. 
Otherwise, HFE genotyping was unable to be sent while inpatient, 
however hemochromatosis remains on differential given MRI and 
___ heritage. Will need HFE genotype as outpatient.

# Macrocytic Anemia
Hemoglobin 8.0 on admission. Iron labs with elevated ferritin 
consistent with anemia of chronic disease in setting of 
cirrhosis. B12 elevated and folate wnl. Required 1u pRBC on ___ 
for Hgb 6.8, no evidence of overt bleed. ___ was sent given 
macrocytosis. Required 2 units of PRBCs this admission for 
chronic anemia (last ___.

#Urethral bleeding
On ___ patient was noted to have blood that appeared to be 
coming from the urethra and associated with dysuria. UA on 
admission without blood and there was low suspicion for bladder 
bleeding. Urology was consulted and while official etiology was 
unclear, they thought bleeding might be due to stone or UTI. He 
does not have known risk factors but urine GC/chlamydia was sent 
as STI screening and was pending on discharge; HIV negative. At 
recommendation of urology he will undergo 14 day course of UTI 
tx with ciprofloxacin for presumed UTI. His bleeding and pain 
stopped after 1 day of abx and he was counseled to follow up 
with urology as an outpatient if his bleeding/pain continued 
after abx course.

CHRONIC/RESOLVED ISSUES:
==========================
# c/f Wernicke Encephalopathy
Collateral obtained from family raised concerns for 
confabulation and patient had sublte nystagmus on exam (unclear 
baseline) At risk given poor nutrition and alcohol use. Treated 
with 5 day course of IV thiamine and discharged on PO thiamine 
and multivitamin. Patient was AAOx3 on discharge and believed to 
be at his neurologic baseline with no deficits.

# Hyponatremia - resolved
Likely hypovolemic iso poor PO intake. Received albumin during 
admission and encouraged PO intake with overall improvement and 
stabilization of Na.

# Leukocytosis - resolved
Presented with leukocytosis (neutrophil predominance). Likely in 
setting of inflammation from cirrhosis. Pt afebrile. No evidence 
of SBP on dx paracentesis or PNA on CXR. WBC decreased within 
few days and remained wnl.
=
=
=
=
=
=
================================================================
TRANSPLANT WORK-UP:
LABORATORY STUDIES:
[x] Albumin daily + MELD labs ___, LFTs, Bili, alk phos)
[x] Hepatitis A Antibody - negative
[x] Hepatitis B Surface Antibody, antigen, core - negative
[x] Hepatitis C Antibody - negative
[x] Treponemal test - negative
[x] Alpha-fetoprotein - 2.4
[/] Herpes Simplex Virus 1 and 2 Antibody IgM
[x] HIV 1 & 2 AB - negative
[x] Rubella IgG Antibody - positive
[x] Rubeola IgG Antibody - positive
[x] TSH - 1.2
[x] Thyroxine, Free (T4) - 1.2
[-] CA ___ - ONLY if +primary sclerosing cholangitis
[x] Iron 78, TIBC 69, Ferritin 3333
[x] Toxoplasma IgG antibody - negative
[!] IgG, IgM, IgA levels - IgG 2340, IgM 117
[x] CEA - 1.0
[x] ___ - negative
[x] AMA - negative
[x] ___ - negative
[/] LMK antibodies
[x] A1AT - 224 H
[x] Lipid Panel - chol 67, ___ 68, HDL 16, LDL 37
[x] Type and Screen x 2 - ABO and Rh type
[x] CBC + diff
[x] Chem-10
[x] CMV IgG/IgM Antibody Panel - negative
[x] Mumps IgG Antibody - positive
[!] Varicella Zoster (VZV) IgG Antibody - positive
[x] EBV Antibody Panel - IgG+, IgM-
[x] Vitamin D 25 Hydroxy - 14
[x] TOX: Ethanol
[x] UTOX: Amphetamines, Barbiturates, benzodiazepines, cocaine, 
methadone, opiates, oxycodone (no need to order marijuana)
[x] LFTs + GGT
[/] QuantiFERON-TB Gold - if indeterminate reorder it, if 
indeterminate x 2 then will need TB treatment post-transplant
[x] UA complete w/reflex
[ ] ABG
[-] If HBsAg positive, get HBV DNA and genotype
[-] If HCV Ab positive, get HCV RNA and genotype
[-] If HIV positive, CD4 count and HIV VL
[-] if fulminant liver failure, HAV IgM, HBcIgM, ceruloplasmin, 
peripheral blood smear, uric acid. If allergic to sulfa, test 
for G6PD deficiency
STUDIES/CONSULTS
[ ] Dental evaluation (order panorex FIRST, then call dental 
consult)
[x] Abd CT with liver volume OR MRI abdomen w/wo contrast
[!] Echo (TTE) - non-diagnostic given poor windows
   [  ] will need cardiac MRI
[ ] PFTs (to be done outpatient ok)
[x] EKG - LAE, QTc 512
[x] CXR AP/Lat (NOT portable)
[x] If Male>___, PSA - 0.1
[-] PAP ___ for women ___ years
[x] Colonoscopy Age >___ (OSH) - localized mild inflammation with 
erosions and erythema in the rectum, and few diverticula in 
sigmoid colon
[/] Cardiac MRI (for those with hemochromatosis)
[-] >65 diabetic, NASH need cardiac stress tests
[ ] DEXA if obstructive reason for cirrhosis
[ ] ENT evaluation of mouth oropharynx and neck for head or neck 
cancer if smoking history with work-up to be determined by ENT 
(usually see Dr. ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nadolol 20 mg PO DAILY 
2. Spironolactone 50 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 250 mg PO Q12H Duration: 12 Doses 
RX *ciprofloxacin HCl [Cipro] 250 mg 1 tablet(s) by mouth twice 
a day Disp #*24 Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
3.  Furosemide 120 mg PO DAILY 
RX *furosemide 40 mg 3 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*1 
4.  Midodrine 5 mg PO TID 
RX *midodrine 5 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0 
5.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Vitamins and Minerals]  1 
tablet(s) by mouth once a day Disp #*30 Tablet Refills:*0 
6.  Thiamine 100 mg PO TID ___ tx 
Duration: 2 Weeks 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth three 
times a day Disp #*300 Tablet Refills:*0 
7.  Thiamine 100 mg PO DAILY 
to start ___ 
RX *thiamine HCl (vitamin B1) [Vitamin B-1] 100 mg 1 tablet(s) 
by mouth once a day Disp #*30 Tablet Refills:*0 
8.  Vitamin D ___ UNIT PO 1X/WEEK (FR) 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth once a week Disp #*4 Capsule Refills:*0 
9.  Spironolactone 300 mg PO DAILY 
RX *spironolactone [Aldactone] 100 mg 3 tablet(s) by mouth 
Qdaily Disp #*90 Tablet Refills:*0 
10.Rolling Walker
DX: R26.8 
PX: good
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Cirrhosis (etiology unclear) decompensated by 
ascites,grade 1 varices

SECONDARY DIAGNOSIS: Anemia
                     Coagulopathy
                     Leukocytosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for expedited transplant 
work-up.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You had several blood tests and imaging studies to initiate 
transplant work-up
- You had a 'paracentesis' where 6L of fluid was removed from 
your abdomen
- You were seen by a nutritionist and recommended to drink ___ 
Ensures per day
- You were started on diuretics to help get rid of the extra 
fluid from your body
- You improved and were ready to leave the hospital.

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- You must never drink alcohol again
- Please enroll in AA and work with your primary care doctor to 
determine the best strategy to help you stay sober
- Take all of your medications as prescribed (listed below)
- Keep your follow up appointments with your doctors
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds
- Please stick to a low salt diet and monitor your fluid intake
- If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

It was a pleasure participating in your care. We wish you the 
best!
- Your ___ Care Team
 
Followup Instructions:
___